US09282744B2
75% Benziothiazolinone.Iprodione Water Dispersible Granule
2% benziothiazolinone, 73% iprodione, 5% sodium methyl naphthalene sulfonate-formaldehyde condensate, 4% sodium lignosulfonate, 3% sodium dodecyl sulfate, complemented to 100% with diatomite.

reactant | iprodione | CC(C)NC(=O)N1CC(=O)N(C1=O)C=2C=C(C=C(C2)Cl)Cl | C13H13Cl2N3O3
reactant | sodium methyl naphthalene sulfonate formaldehyde | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)OC.[Na].C=O
reactant | sodium dodecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
product | Iprodione Water | CC(C)NC(=O)N1CC(=O)N(C1=O)C=2C=C(C=C(C2)Cl)Cl.O | InChI=1S/C13H13Cl2N3O3.H2O/c1-7(2)16-12(20)17-6-11(19)18(13(17)21)10-4-8(14)3-9(15)5-10;/h3-5,7H,6H2,1-2H3,(H,16,20);1H2
